US04551279
Preparation of 2-hydroxy-5-[(1-oxooctyl)amino]benzoic acid
In the manner of Example 57 were reacted 3.4 ml of octanoyl chloride, 3.0 g of 5-amino salicylic acid and 2.8 ml of triethylamine. Recrystallization from methanol gave the title compound--m.p. ca. 200°-204° C.

reactant | octanoyl chloride | 3.4 ml | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | 5-amino salicylic acid | 3.0 g | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
solvent | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
product | 2-hydroxy-5-[(1-oxooctyl)amino]benzoic acid | OC1=C(C(=O)O)C=C(C=C1)NC(CCCCCCC)=O | C15H21NO4
